US06111133
Synthesis of 4-Benzyloxystyrene
Approximately 10 gs (6.17×10-2 moles) of 4-acetoxystyrene was added to a 25 wt % solution of TMAH (51 mL). After 15 minutes of stirring a clear yellowish solution was obtained. About 10.6 gs (6.17×10-2 moles) of benzyl bromide was added to this solution with stirring. Slow formation of product crystals was observed. Reaction was complete as seen by thin layer chromatography after about 5 hours. The crystals were filtered-off, washed with distilled water, and sucked dry. In this way, 10.5 gs (81% yield) of pure desired product was obtained. Analysis of the product indicated:

reactant | 4-acetoxystyrene | 6.17×10-2 moles | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
reactant | TMAH | 51 mL | C[N+](C)(C)C.[OH-]
reactant | benzyl bromide | 6.17×10-2 moles | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-Benzyloxystyrene | 81% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C)C=C1 | C15H14O
